US04354973
8-Chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-3 -carboxylic acid hemietherate
A solution of 1.5 g (9.5 mmol) of potassium permanganate in 150 ml of 50% aqueous acetone was added dropwise to a solution of 1.6 g (4.5 mmol) of 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-3-carboxaldehyde in 100 ml of acetone. After 2.5 hr the mixture was diluted with a saturated aqueous solution of sodium bisulfite, neutralized with the addition of acetic acid and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. Trituration of the residue with methylene chloride gave yellow crysals, mp 216°-218°. Recrystallization from a mixture of ethanol and ether gave yellow prisms, mp 252°-254° (dec).

reactant | potassium permanganate | 9.5 mmol, 1.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-3-carboxaldehyde | 4.5 mmol, 1.6 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=C(NC3)C=O)C=C1 | C19H12Cl2N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | sodium bisulfite | S([O-])(O)=O.[Na+]
product | 8-Chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-3 -carboxylic acid | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=C(NC3)C(=O)O)C=C1 | C19H12Cl2N2O2
